US04987132
10% Palladium-on-carbon (200 mg) was added to a solution of 5.34 g of 4-methoxycinnamic acid in methanol, and the mixture was stirred under hydrogen until hydrogen gas absorption ceased. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give 5.43 g of 3-(4-methoxyphenyl)propionic acid.

reactant | 4-methoxycinnamic acid | 5.34 g | COC1=CC=C(C=CC(=O)O)C=C1 | C10H10O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Palladium-on-carbon | 200 mg | [Pd] | Pd
product | 3-(4-methoxyphenyl)propionic acid | 5.43 g | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
